US07989463B2
Step (v): Synthesis of 1-[4-(2-morpholin-4-yl-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclobutanecarboxylic acid
A solution of sodium hydroxide (0.588 g, 14.7 mmol) in water (15 mL) was added to a solution of 1-[4-(2-morpholin-4-yl-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclobutanecarboxylic acid methyl ester (1.0 g, 2.45 mmol) in MeOH (15 mL) and stirred at a temperature in the range of 15° C. to 40° C. for 3 hours. Thereafter, MeOH was evaporated under reduced pressure and pH of the solution was adjusted to ˜4 by adding concentrated hydrochloric acid. The precipitated solid was filtered, washed with water and dried in vacuo to afford the title compound as a white solid (0.9 g, 93.2% yield).

reactant | sodium hydroxide | 14.7 mmol, 0.588 g | [OH-].[Na+]
reactant | 1-[4-(2-morpholin-4-yl-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclobutanecarboxylic acid methyl ester | 2.45 mmol, 1.0 g | COC(=O)C1(CCC1)C1=CC=C(C=C1)NC1=NC(=NC2=C1CCC2)N2CCOCC2 | C23H28N4O3
solvent | water | 15 mL | O | H2O
solvent | MeOH | 15 mL | CO | CH4O
product | 1-[4-(2-morpholin-4-yl-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclobutanecarboxylic acid | 0.9 g, 93.2% yield | N1(CCOCC1)C1=NC2=C(C(=N1)NC1=CC=C(C=C1)C1(CCC1)C(=O)O)CCC2 | C22H26N4O3
